US06800629B2
In 4 mL of pyridine was dissolved 0.22 g of methyl 4-[(3aR,4R,6R,6aR)-6-(hydroxymethyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-3-oxo-3,4-dihydro-2-pyrazinecarboxylate. Then, 0.17 g of dibenzyl phosphate, 0.40 g of triphenylphosphine and 0.30 mL of diisopropyl azodicarboxylate were successively added and stirred at room temperature for 15 hours, and the solvent was removed under reduced pressure. By purifying the residue by column chromatography [eluent: ethyl acetate], 0.37 g of methyl 4-[(3aR,4R,6R,6aR)-6-({[bis(benzyloxy)phosphoryl]oxy}methyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-3-oxo-3,4-dihydro-2-pyrazinecarboxylate was obtained as an orange-colored solid product.

reactant | methyl 4-[(3aR,4R,6R,6aR)-6-(hydroxymethyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-3-oxo-3,4-dihydro-2-pyrazinecarboxylate | 0.22 g | OC[C@H]1O[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N2C(C(=NC=C2)C(=O)OC)=O | C14H18N2O7
reactant | dibenzyl phosphate | 0.17 g | P(=O)(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)[O-]
reactant | triphenylphosphine | 0.40 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.30 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | methyl 4-[(3aR,4R,6R,6aR)-6-({[bis(benzyloxy)phosphoryl]oxy}methyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-3-oxo-3,4-dihydro-2-pyrazinecarboxylate | 0.37 g | C(C1=CC=CC=C1)OP(=O)(OCC1=CC=CC=C1)OC[C@H]1O[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N2C(C(=NC=C2)C(=O)OC)=O | C28H31N2O10P
